US06034113
4-Chloro-2-[[5-[4-(trifluoromethyl)phenyl]-2,3-dihydro-2-oxo-1,3,4-oxadiazol-3-yl]methyl]phenyl chloroformate
A stirred suspension of 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one (1 g, 2.69 mmol) and BnPh3PCI (25 mg) in 1.9 molar toluene solution of phosgene (15 mL) was heated at 120° C. overnight in a sealed tube. After removal of excess phosgene, the toluene solution was rotary evaporated to dryness to afford the chlorotormate product as a white semi-solid (1.18 g).

reactant | 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 2.69 mmol, 1 g | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)O | C16H10ClF3N2O3
reactant | phosgene | 15 mL | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 1.9 molar | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2-[[5-[4-(trifluoromethyl)phenyl]-2,3-dihydro-2-oxo-1,3,4-oxadiazol-3-yl]methyl]phenyl chloroformate | 1.18 g | ClC(=O)OC1=C(C=C(C=C1)Cl)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O | C17H9Cl2F3N2O4
